US04636516
By following the same procedure as in Example 6 using 1.7 g of 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methyl-1-butanone hydrochloride, 0.8 g of potassium isocyanate, and 1 ml of concentrated hydrochloric acid and recrystallizing the reaction product from aqueous isopropanol, 0.35 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-isopropyl-2-oxo-4-imidazoline was obtained.

reactant | 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-methyl-1-butanone hydrochloride | 1.7 g | Cl.NC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C(C)C
reactant | potassium isocyanate | 0.8 g | [N-]=C=O.[K+]
reactant | hydrochloric acid | 1 ml | Cl | ClH
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-isopropyl-2-oxo-4-imidazoline | 0.35 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1C(C)C)=O | C20H30N2O2
